US05095149
In 50 ml of 1,4-dioxane was dissolved 20.1 g (0.1 mole) of tert-butyl 2-methoxyimino-3-oxobutyrate, and 32.0 g (0.2 mole) of bromine was added dropwise at 0° to 5° C. over a period of 1 hour and 30 minutes and stirred at 20° C. for 20 hours. After completion of the reaction, 25 ml of a saturated aqueous sodium chloride solution and 50 ml of 1,2-dichloroethane were added and then stirred, and the resulting mixture was allowed to stand and then separated and the aqueous layer was removed. The organic layer was further washed with 25 ml of water and dried over anhydrous magnesium sulfate, after which the 1,2-dichloroethane was distilled off under reduced pressure, and the residue was crystallized from 50 ml of xylene to obtain 9.2 g (yield 41.1%) of 4-bromo-2-methoxyimino-3-oxobutyric acid as white crystals.

reactant | tert-butyl 2-methoxyimino-3-oxobutyrate | 0.1 mole, 20.1 g | CON=C(C(=O)OC(C)(C)C)C(C)=O | C9H15NO4
reactant | bromine | 0.2 mole, 32.0 g | BrBr | Br2
reactant | sodium chloride | 25 ml | [Cl-].[Na+]
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-bromo-2-methoxyimino-3-oxobutyric acid | 9.2 g, yield 41.1% | BrCC(C(C(=O)O)=NOC)=O | C5H6BrNO4
